US08809552B2
rac-6-Pyrimidin-2-yl-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide
To a solution of rac-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide (150 mg, 270 μmol) in toluene (6 mL) were added 2-bromopyrimidine (43 mg, 270 mmol) and triethylamine (27 mg, 270 μmol). After addition of tris(dibenzylideneacetone)dipalladium(0) (5 mg, 5 μmol), BINAP (10 mg, 16 μmol) and potassium tert-butylate (30 mg, 270 μmol) the reaction mixture was heated under an argon atmosphere to 110° C. for 20 h. It was filtered and concentrated in vacuo. Purification by chromatography (SiO2; dichloromethane:methanol 1:0 to 9:1) afforded the title compound (26 mg, 25%) as a white solid. MS (EI) m/e: 378.3 (M+H)+.

reactant | rac-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide | 270 μmol, 150 mg | ClC1=C(CNC(=O)N2CC3CNC3C2)C=CC(=C1)Cl | C13H15Cl2N3O
reactant | 2-bromopyrimidine | 270 mmol, 43 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | triethylamine | 270 μmol, 27 mg | C(C)N(CC)CC | C6H15N
reactant | BINAP | 16 μmol, 10 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | potassium tert-butylate | 270 μmol, 30 mg | CC(C)(C)[O-].[K+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 5 μmol, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | rac-6-Pyrimidin-2-yl-3,6-diaza-bicyclo[3.2.0]heptane-3-carboxylic acid 2,4-dichloro-benzylamide | 26 mg, 25% | ClC1=C(CNC(=O)N2CC3CN(C3C2)C2=NC=CC=N2)C=CC(=C1)Cl | C17H17Cl2N5O
